US07208490B2
Step 1: Preparation of 3-(Benzylamino)-1,1,1-trifluoropropan-2-ol
Lithium triflate was suspended in CH3CN (15 mL) and the mixture is cooled to −10° C. 2-(Trifluoromethyl)oxirane is added and the suspension is allowed to warm to RT with stirring. Benzylamine (6.33 mL, 58 mmol, Aldrich) is added all-at-once and the resultant solution is stirred for 25 minutes. The reaction is quenched by pouring into CH2Cl2 (200 mL) and washing 3× with H2O (200 mL). The organic layer is dried over Na2SO4 and filtered. The product is purified on a Biotage Flash 75L using 20:70:10 CH2Cl2:pentane:triethylamine as eluent. The product containing fractions are pooled and the solvent is removed by rotary evaporation. The product is dried under vacuum at 100° C. yielding a white crystalline solid.

reactant | Lithium triflate | [O-]S(=O)(=O)C(F)(F)F.[Li+]
reactant | 2-(Trifluoromethyl)oxirane | FC(C1OC1)(F)F | C3H3F3O
reactant | Benzylamine | 58 mmol, 6.33 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 3-(Benzylamino)-1,1,1-trifluoropropan-2-ol | C(C1=CC=CC=C1)NCC(C(F)(F)F)O | C10H12F3NO
